US07566735B2
1-[4-(1-pyrrolidinylsulfonyl)phenyl]-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole
The title compound was prepared from 1-[(4-iodophenyl)sulfonyl]pyrrolidine and 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole using a similar procedure to that described for Example 87.

reactant | 1-[(4-iodophenyl)sulfonyl]pyrrolidine | IC1=CC=C(C=C1)S(=O)(=O)N1CCCC1 | C10H12INO2S
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
product | 1-[4-(1-pyrrolidinylsulfonyl)phenyl]-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | N1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C18H20F3N3O2S
